US09382226B2
Step A. (5-bromo-2-nitro-phenyl)-cyclopropylamine
To solution of 4-bromo-2-fluoronitrobenzene (2M g, 0.0091 mol) in DMF (10 ml) was added carefully DIPEA (3.25 ml, 0.0182 mol) and cyclopropylamine (0.7 ml, 0.0091 mol) and the resulting solution was stirred at room temperature for 14 h. The reaction was quenched with ice-water and extracted with diethyl ether (3×100 ml). The combined organic layers were washed with brine dried over Na2SO4 and concentrated under vacuum to afford the title compound (5-bromo-2-nitro-phenyl)-cyclopropylamine as a yellow solid. C9H9BrN2O2; 1H NMR (400 MHz, DMSO-d6), δ: 8.08 (brs, 1H), 8.02-7.99 (d, J=8.8 Hz, 1H), 7.47 (s, 1H), 7.26 (s, 1H), 6.82-6.79 (dd, J=8.8 Hz, 1.6 Hz, 1H), 2.58-2.54 (m, 1H), 0.97-0.88 (m, 2H), 0.69-0.65 (m, 2H). MS (M+1): 258.

reactant | 4-bromo-2-fluoronitrobenzene | 0.0091 mol, 2M | BrC1=CC(=C(C=C1)[N+](=O)[O-])F | C6H3BrFNO2
reactant | DIPEA | 0.0182 mol, 3.25 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | cyclopropylamine | 0.0091 mol, 0.7 ml | C1(CC1)N | C3H7N
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | (5-bromo-2-nitro-phenyl)-cyclopropylamine | BrC=1C=CC(=C(C1)NC1CC1)[N+](=O)[O-] | C9H9BrN2O2
